US07968573B2
To a solution of 2.14 g of 1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde in 10 ml of N,N-dimethylformamide was added 1.7 g of N-bromosuccinimide. The mixture was stirred at room temperature for 2 hours. Water was poured into the reaction mixture, and a deposited precipitate was collected by filtration to obtain 2.9 g of 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 2.14 g | ClC=1C=NC=C(C1N1C(=CC=C1)C=O)Cl | C10H6Cl2N2O
reactant | N-bromosuccinimide | 1.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-bromo-1-(3,5-dichloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 2.9 g | BrC=1C=C(N(C1)C1=C(C=NC=C1Cl)Cl)C=O | C10H5BrCl2N2O
